US04604397
A solution of 600 mg of trans-8-bromo-7-methoxy-4-propyl-1,2,3,4a,5,10b-hexahydro-4H-[1]-benzopyrano[3,4-b]pyridine in 10 ml of tetrahydrofuran is treated with 1.68 ml of 2.1M n-butyllithium at -78°. After 10 minutes, 27 ml of dimethylformamide is added. After 30 minutes at 0°, the reaction mixture is poured onto water and the products are extracted with ether. After drying the solvent is removed. The residue is treated with 35 mg of sodium borohydride in 5 ml of methanol. After 10 minutes the solvent is removed and the residue is chromatographed on 10 g silica gel with acetone/hexane 1:2 as the eluent to afford trans-8-hydroxymethyl-7-methoxy-4-propyl-1,2,3,4a,5,10b-hexahydro-4H-[1]-benzopyrano[3,4-b]pyridine.

reactant | trans-8-bromo-7-methoxy-4-propyl-1,2,3,4a,5,10b-hexahydro-4H-[1]-benzopyrano[3,4-b]pyridine | 600 mg | BrC1=C(C2=C(C=C1)[C@@H]1[C@H](N(CCC1)CCC)CO2)OC | C16H22BrNO2
reactant | n-butyllithium | 2.1M, 1.68 ml | C(CCC)[Li]
reactant | dimethylformamide | 27 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | trans-8-hydroxymethyl-7-methoxy-4-propyl-1,2,3,4a,5,10b-hexahydro-4H-[1]-benzopyrano[3,4-b]pyridine | OCC1=C(C2=C(C=C1)[C@@H]1[C@H](N(CCC1)CCC)CO2)OC | C17H25NO3
